US03997539
A stirred mixture of 3.82 g (0.02 mol) of 5,6-dimethoxy-2-methylindole and 5,80 g (0.044 mol) of potassium carbonate in 50 ml. of chloroform and 15 ml. of water is cooled to -5° C. Then 3.2 g (0.024 mol) of oxalyl chloride is added slowly, maintaining the reaction temperature at 0° C. The resulting mixture is stirred at room temperature for 10 minutes. Then 3.5 g (0.03 mol) of nitrosopiperazine is added over a 5 minute span. The reaction mixture turns red-purple and is stirred for an additional hour. To the solution is slowly added in portions 250 ml. of ethyl ether; the solution appears lighter and a tan precipitate forms. After stirring for one hour, the product is filtered, washed well with water and dried. This product is recrystallized from a DMF and water mixture to give flakes of 1-(5,6-dimethoxy-2-methylindol-3-ylglyoxyloyl)-4-nitrosopiperazine, m.p. 233°-225° C. Analysis: Calculated for C17H20N4O5 : 56.66% C; 5.59% H; 15.55% N Found: 56.65% C; 5.61% H; 15.68% N.

reactant | 5,6-dimethoxy-2-methylindole | 0.02 mol, 3.82 g | COC=1C=C2C=C(NC2=CC1OC)C | C11H13NO2
reactant | potassium carbonate | 0.044 mol, 5,80 g | C([O-])([O-])=O.[K+].[K+]
reactant | oxalyl chloride | 0.024 mol, 3.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | nitrosopiperazine | 0.03 mol, 3.5 g | N(=O)N1CCNCC1 | C4H9N3O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(5,6-dimethoxy-2-methylindol-3-ylglyoxyloyl)-4-nitrosopiperazine | COC=1C=C2C(=C(NC2=CC1OC)C)C(C(=O)N1CCN(CC1)N=O)=O | C17H20N4O5
